US06900215B2
3-Bromo-7-(1,1-dimethoxyethyl)imidazo[1,2-α]pyrimidine (860 mg, 3 mmol) was coupled with 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile (1.45 g, 4.5 mmol) as described in Example 1 to give crude 5′-[7-(1,1-dimethoxyethyl)imidazo[1,2-α]pyrimidin-3-yl]-2′-fluorobiphenyl-2-carbonitrile (1.21 g).

reactant | 3-Bromo-7-(1,1-dimethoxyethyl)imidazo[1,2-α]pyrimidine | 3 mmol, 860 mg | BrC1=CN=C2N1C=CC(=N2)C(C)(OC)OC | C10H12BrN3O2
reactant | 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | 4.5 mmol, 1.45 g | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=1C(=CC=CC1)C#N | C19H19BFNO2
product | 5′-[7-(1,1-dimethoxyethyl)imidazo[1,2-α]pyrimidin-3-yl]-2′-fluorobiphenyl-2-carbonitrile | 1.21 g | COC(C)(OC)C1=NC=2N(C=C1)C(=CN2)C=2C=CC(=C(C2)C=2C(=CC=CC2)C#N)F | C23H19FN4O2
